US03976645
3-(m-Chlorophenyl)-1-(2-cyanoethyl)-3-hydroxyindolin-2-one.
Acrylonitrile (1.06 g.) was added to a solution of 3-(m-chlorophenyl)-3-hydroxyindolin-2-one (2.6 g.) in ethanol (50 ml.) containing Triton B (40% aqueous solution, 3 drops) and the resulting mixture stirred and heated under reflux for 6 hours. Charcoal was added and the mixture filtered and evaporated to about 15 ml. The product crystallised as colourless prisms 1.57 g., m.p. 149°-50°. (Analysis: Found C, 65.5; H, 4.4; N, 8.8%. C17H13ClN2O2 requires C, 65.3; H, 4.2; N, 8.9%).

reactant | Acrylonitrile | 1.06 g | C(C=C)#N | C3H3N
reactant | 3-(m-chlorophenyl)-3-hydroxyindolin-2-one | 2.6 g | ClC=1C=C(C=CC1)C1(C(NC2=CC=CC=C12)=O)O | C14H10ClNO2
reactant | Charcoal | C | CH4
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(m-Chlorophenyl)-1-(2-cyanoethyl)-3-hydroxyindolin-2-one | ClC=1C=C(C=CC1)C1(C(N(C2=CC=CC=C12)CCC#N)=O)O | C17H13ClN2O2
